US07598243B2
To a stirred solution of tert-butyl 4-[3-(ethoxycarbonyl)phenyl]piperidine-1-carboxylate (48 g, 220 mmol) in chloroform (900 mL) was added ruthenium (IV) oxide hydrate (6.0 g, 45 mmol) followed by a solution of sodium periodate (150 g, 700 mmol) in water (900 mL). The resulting heterogenous reaction mixture was stirred at room temperature for 11 days before being filtered through a short column of celite. The organic layer was removed and the aqueous layer was extracted twice with DCM. The combined organic layers were washed with a 10% solution of sodium thiosulfate in water twice, and once with brine. This solution was dried over MgSO4, filtered, and concentrated under reduced pressure. The product was purified by flash chromatography (silica gel, 20% EA/hexanes) to give 22.5 g (64.8 mmol) of tert-butyl 4-[3-(ethoxycarbonyl)phenyl]-2-oxopiperidine-1-carboxylate (29%).

reactant | tert-butyl 4-[3-(ethoxycarbonyl)phenyl]piperidine-1-carboxylate | 220 mmol, 48 g | C(C)OC(=O)C=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C | C19H27NO4
reactant | sodium periodate | 700 mmol, 150 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | chloroform | 900 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 900 mL | O | H2O
catalyst | ruthenium (IV) oxide hydrate | 45 mmol, 6.0 g | O.[Ru](=O)=O
product | tert-butyl 4-[3-(ethoxycarbonyl)phenyl]-2-oxopiperidine-1-carboxylate | 64.8 mmol, 22.5 g, 29% | C(C)OC(=O)C=1C=C(C=CC1)C1CC(N(CC1)C(=O)OC(C)(C)C)=O | C19H25NO5
